US05434202
54 g (0.55 mol) of ethyl propiolate were added dropwise to 78 g (0.50 mol) of triacetoneamine in 200 ml of ethanol at reflux, and the mixture was then stirred at this temperature for a further 4 hours. After cooling, the precipitated product was filtered off, thoroughly washed with petroleum ether and subsequently dried at 60° C. and under 0.1 mbar. 80 g (corresponding to a yield of 63%) of ethyl β-(2,2,6,6-tetramethyl-4-oxo-1-piperidinyl)acrylate were obtained in the form of a colorless solid of melting point 145° C.

reactant | ethyl propiolate | 0.55 mol, 54 g | C(C#C)(=O)OCC | C5H6O2
reactant | triacetoneamine | 0.50 mol, 78 g | CC1(CC(=O)CC(N1)(C)C)C | C9H17NO
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | ethyl β-(2,2,6,6-tetramethyl-4-oxo-1-piperidinyl)acrylate | yield of 63% | CC1(N(C(CC(C1)=O)(C)C)C=CC(=O)OCC)C | C14H23NO3
